US06956049B1
Preparation of (2E)-N-Hydroxy-3-phenyl-2-propenimidamide:
To a solution of hydroxylamine hydrochloride (690 mg, 10 mmol) in ethanol was added NaOH (400 mg, 10 mmol), followed by cinnamonitrile (1.3 g, 10 mmol). This mixture was heated to reflux for 16 h. The ethanol was removed in vacuo, the residue was acidified with 3M HCl (5 mL) and the solution was boiled for 30 minutes. The cooled solution was made basic (pH 8) with NH4OH, and partitioned between water and ethyl acetate. The organics were concentrated to give a sticky white mass which was used without further purification.

reactant | hydroxylamine hydrochloride | 10 mmol, 690 mg | Cl.NO
reactant | NaOH | 10 mmol, 400 mg | [OH-].[Na+]
reactant | cinnamonitrile | 10 mmol, 1.3 g | C(C=CC1=CC=CC=C1)#N | C9H7N
solvent | ethanol | C(C)O | C2H6O
product | (2E)-N-Hydroxy-3-phenyl-2-propenimidamide | ONC(\C=C\C1=CC=CC=C1)=N | C9H10N2O
